US04958028
2,5-Difluorophenylisocyanate (1.55 g, 10.0 mmol) in methylene chloride (25 mL) was added dropwise to a suspension of phenylalanine (1.65 g, 10.0 mmol) in methylene chloride (50 mL) containing triethylamine (1.4 mL, 1.01 g, 10.0 mmol). The solution was allowed to stir overnight, and was then concentrated. The residue was taken up into 6N HCl and heated to reflux for 3 hours. The cooled solution was extracted with ethyl acetate (3×), and the combined extracts were washed with water (2×), dried (over MgSO4), filtered and concentrated to give 2.7 grams. Purification by column chromatography gave 2.5 grams of 5-benzyl-3-(2.5-difluorophenyl)imidazolidine-2,4-dione.

reactant | 2,5-Difluorophenylisocyanate | 10.0 mmol, 1.55 g | FC1=C(C=C(C=C1)F)N=C=O | C7H3F2NO
reactant | phenylalanine | 10.0 mmol, 1.65 g | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | triethylamine | 10.0 mmol, 1.4 mL, 1.01 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 5-benzyl-3-(2.5-difluorophenyl)imidazolidine-2,4-dione | 2.5 grams | C(C1=CC=CC=C1)C1C(N(C(N1)=O)C1=C(C=CC(=C1)F)F)=O | C16H12F2N2O2
